US08084448B2
C. {2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic Acid Methyl Ester
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and (2-iodomethylphenyl)-acetic acid methyl ester analogous to Example 310, steps C and D.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | (2-iodomethylphenyl)-acetic acid methyl ester | COC(CC1=C(C=CC=C1)CI)=O | C10H11IO2
product | {2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic Acid Methyl Ester | COC(CC1=C(C=CC=C1)CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)=O | C25H24N2O6S
